US05110956
[{1-(6-Methyl-1,3-benzodioxol-5-yl)-1-propyl}thio] acetic acid
2.27 g of 1-(6-methyl-1,3-benzodioxol-5-yl)-1-propanol, 0.1 g of p-toluenesulfonic acid and 1.52 g of mercaptoacetic acid were dissolved in 80 ml of benzene. The solution was heated under reflux for 12 h while water was removed. The reaction mixture was poured into water. The aqueous layer was made alkaline and washed with ether. The aqueous layer was then acidified and extracted with chloroform. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure to obtain a faint yellow solid. It was purified according to silica gel column chromatography (ethyl acetate/ hexane=2:8) to obtain 2.83 g of the intended compound in the form of white crystals.

reactant | 1-(6-methyl-1,3-benzodioxol-5-yl)-1-propanol | 2.27 g | CC=1C(=CC2=C(OCO2)C1)C(CC)O | C11H14O3
reactant | mercaptoacetic acid | 1.52 g | SCC(=O)O | C2H4O2S
reactant | water | O | H2O
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | [{1-(6-Methyl-1,3-benzodioxol-5-yl)-1-propyl}thio] acetic acid | 2.83 g | CC=1C(=CC2=C(OCO2)C1)C(CC)SCC(=O)O | C13H16O4S
